US08440689B2
B. tert-Butyl (1S,2R)-2-(4-(3-(methylsulfonyl)phenylamino)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclopentylcarbamate
A mixture of methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclopentylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate (141.1 mg, 0.266 mmol) and palladium hydroxide on carbon (43.2 mg, 0.308 mmol) in MeOH (10 mL) and HOAc (10 mL) was stirred at RT for 12 h under a hydrogen atmosphere. The mixture was filtered to remove the catalyst and the filtrate was concentrated under reduced pressure. The residue was treated with saturated aq NaHCO3 (20 mL) and MeOH (20 mL). The mixture was stirred at RT for 6 h and then concentrated under reduced pressure. The residue was treated with saturated aq NaHCO3 (30 mL) and extracted with EtOAc (2×50 mL). The organic layers were washed with saturated aq NaHCO3 (20 mL), water (20 mL) and brine (20 mL), were dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (DM1020, EtOAc) to give the desired product (46.5 mg). The product was washed with IPE/EtOAc to give the title compound as a pale brown solid (34.7 mg, 26%).

reactant | methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclopentylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 0.266 mmol, 141.1 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C25H31N5O6S
solvent | MeOH | 10 mL | CO | CH4O
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
catalyst | palladium hydroxide on carbon | 0.308 mmol, 43.2 mg | [OH-].[OH-].[Pd+2]
product | tert-Butyl (1S,2R)-2-(4-(3-(methylsulfonyl)phenylamino)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclopentylcarbamate | 46.5 mg | CS(=O)(=O)C=1C=C(C=CC1)NC1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCC2)NC(OC(C)(C)C)=O | C24H31N5O5S
